US04054719
Following the procedure of Example 1,5 grams of 3,4-dimethoxyphenacyl bromide are reacted with 5 grams of acetic acid to obtain 3,4-dimethoxyphenacyl acetate, m.p. 82°-84° C.

reactant | 3,4-dimethoxyphenacyl bromide | 1,5 grams | COC=1C=C(C(CBr)=O)C=CC1OC | C10H11BrO3
reactant | acetic acid | 5 grams | C(C)(=O)O | C2H4O2
product | 3,4-dimethoxyphenacyl acetate | C(C)(=O)OCC(=O)C1=CC(=C(C=C1)OC)OC | C12H14O5
